US06498163B1
A mixture of 8-methyl-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one (194 mg, 0.81 mmol) and 2 mL of isopropylamine was stirred at room temperature for 15 minutes. Excess amine was removed in vacuo, and the residue was partitioned between ethyl acetate and water. The organic phase was washed with saturated sodium bicarbonate, followed by brine, dried over magnesium sulfate, and concentrated to give 168 mg (95%) of 2-isopropylamino-8-methyl-8H-pyrido[2,3-d]pyrimidin-7-one, mp 148-149° C.

reactant | 8-methyl-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.81 mmol, 194 mg | CN1C(C=CC2=C1N=C(N=C2)S(=O)(=O)C)=O | C9H9N3O3S
reactant | isopropylamine | 2 mL | C(C)(C)N | C3H9N
product | 2-isopropylamino-8-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 168 mg, 95% | C(C)(C)NC=1N=CC2=C(N1)N(C(C=C2)=O)C | C11H14N4O
